US04001229
Procedure 78. N-(2-Diethylaminoethyl)-4'-(1-hydroxy-1,2-diphenylbutyl)methanesulfonanilide.
N-(2-Diethylaminoethyl)-4'-(1-oxo-2-phenylbutyl)methanesulfonanilide (24.0 g., 0.0576 mole) is dissolved in 500 ml. ethyl ether and added dropwise during 1/2 hr. to a solution of phenylmagnesium bromide (0.145 mole) in 500 ml. ethyl ether. The mixture is heated at reflux for 16 hrs. After cooling to room temperature, 100 g. of ammonium chloride in 400 ml. water is added and the solution is stirred for 15 min. The ether layer is separated and the aqueous layer is extracted with ethyl ether and the combined ether solutions are washed with water followed by 1N HCl. The acidic aqueous wash is washed with ethyl ether and basified with 50% NaOH to pH 11. The product is extracted with ethyl ether and the ether solution is washed with water and dried (MgSO4). Evaporation of the ethyl ether yields 28 g. of product as an oil (100% yield).

reactant | N-(2-Diethylaminoethyl)-4'-(1-oxo-2-phenylbutyl)methanesulfonanilide | 0.0576 mole, 24.0 g | C(C)N(CCN(C1=CC=C(C=C1)C(C(CC)C1=CC=CC=C1)=O)S(=O)(=O)C)CC | C23H32N2O3S
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | phenylmagnesium bromide | 0.145 mole | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
product | N-(2-Diethylaminoethyl)-4'-(1-hydroxy-1,2-diphenylbutyl)methanesulfonanilide | 100% yield | C(C)N(CCN(C1=CC=C(C=C1)C(C(CC)C1=CC=CC=C1)(C1=CC=CC=C1)O)S(=O)(=O)C)CC | C29H38N2O3S
